US06812235B2
The mixture of N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(4-methoxycarbonylbenzoyl)amino-β-alanine (55 mg, 0.106 mmol) in water (0.5 mL), monosilylacetamide (1.0 g) and N-methylmorpholine (61 mL, 0.55 mmol) was added 1N LiOH solution (0.37 mL) at 5° C. After stirring for 40 minutes, the mixture was neutralized with 20% aqueous KHSO4 solution, then purified by an ODS column chromatography using Daisogel-120sp (10% CH3CN/water) and freeze-dried to give N-[(R)-1-{3-(4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(4-carboxybenzoyl)amino-β-alanine (40 mg, 75.1%) as a white powder.

reactant | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(4-methoxycarbonylbenzoyl)amino-β-alanine | 0.106 mmol, 55 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C1=CC=C(C=C1)C(=O)OC)=O | C31H44N4O9
reactant | monosilylacetamide | 1.0 g | [SiH3]CC(=O)N | C2H7NOSi
reactant | N-methylmorpholine | 0.55 mmol, 61 mL | CN1CCOCC1 | C5H11NO
reactant | LiOH | 1N, 0.37 mL | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | water | 0.5 mL | O | H2O
product | N-[(R)-1-{3-(4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-(4-carboxybenzoyl)amino-β-alanine | 40 mg, 75.1% | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C1=CC=C(C=C1)C(=O)O)=O | C25H34N4O7
